US07618964B2
4-(2-Diethylamino-ethoxy)-benzaldehyde
4.82 g potassium hydroxide were dissolved in 70 ml ethanol and treated with 8.46 g (2-Chloro-ethyl)-diethyl-amine hydrochloride. The mixture was stirred until everything was dissolved, then 5.0 g benzaldehyde were added and refluxed for 16 hrs. The mixture was diluted with water and extracted with ethyl acetate, and the organic phases washed several times with caustic soda. After drying and evaporation of the solvent the crude product was used without further purification. Yield 3.90 g

reactant | potassium hydroxide | 4.82 g | [OH-].[K+]
reactant | (2-Chloro-ethyl)-diethyl-amine hydrochloride | 8.46 g | Cl.ClCCN(CC)CC
reactant | benzaldehyde | 5.0 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(2-Diethylamino-ethoxy)-benzaldehyde | C(C)N(CCOC1=CC=C(C=O)C=C1)CC | C13H19NO2
